US09447141B2
5,6α-epoxicholest-7-en-3β-ol (8.9 g, 22.1 mmol, 1 eq) and spermidine (6.4 g, 44.1 mmol, 2 eq) were charged in a round-bottomed flask equipped with a magnetic stirrer bar. 1-Butanol (70 ml, 5 vol) was added and the mixture heated to reflux for 40 h. The reaction mixture was cooled at r.t., diluted with methyl-tertbutyl-ether (5 vol) and washed with water (5 vol) and with brine (5 vol). The organic layer was passed through a silica pad (40 g) eluted with methyl-tertbutyl-ether (3 vol) then 10% Methanol/ethyl acetate (60 vol). Fractions of interest were pooled and the solvent was removed under reduced pressure to give Dendrogenin B (5α-Hydroxy-6β-[4-(3-aminopropylamino)-butylamino]-cholest-7-en-3β-ol) as a white solid (7.0 g, 58%). In same conditions, use of ethanol as solvent (40 vol) and Ca(OTf)2 as catalyst gave a 14% yield.

reactant | 5,6α-epoxicholest-7-en-3β-ol | 22.1 mmol, 8.9 g, 1 eq | O1C23[C@@H]1C=C1[C@@H]4CC[C@H]([C@@H](CCCC(C)C)C)[C@]4(CC[C@@H]1[C@]3(CC[C@@H](C2)O)C)C | C27H44O2
reactant | spermidine | 44.1 mmol, 6.4 g, 2 eq | NCCCCNCCCN | C7H19N3
reactant | 1-Butanol | 70 ml | C(CCC)O | C4H10O
solvent | methyl-tertbutyl-ether | COC(C)(C)C | C5H12O
product | Dendrogenin B | 7.0 g, 58% | C[C@H](CCCC(C)C)[C@H]1CC[C@@H]2[C@@]1(CC[C@H]3C2=C[C@H]([C@@]4([C@@]3(CC[C@@H](C4)O)C)O)NCCCNCCCCN)C | C34H63N3O2
